US07037925B2
c) Diethyl 2-(4-benzyloxy-3-methoxyanilino)methylenemalonate
A mixture of 4-(Benzyloxy)-3-methoxyaniline (9.3 g, 40 mmol) and diethyl ethoxymethylenemalonate (9.65 g, 45 mmol) were heated at 120° C. for 1–1.5 h, the ethanol produced was removed under reduced pressure, affording 16 g (100% yield) of the title compound.

reactant | 4-(Benzyloxy)-3-methoxyaniline | 40 mmol, 9.3 g | C(C1=CC=CC=C1)OC1=C(C=C(N)C=C1)OC | C14H15NO2
reactant | diethyl ethoxymethylenemalonate | 45 mmol, 9.65 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | ethanol | C(C)O | C2H6O
product | Diethyl 2-(4-benzyloxy-3-methoxyanilino)methylenemalonate | 16 g, 100% yield | C(C1=CC=CC=C1)OC1=C(C=C(NC=C(C(=O)OCC)C(=O)OCC)C=C1)OC | C22H25NO6
